US07714009B2
1-[3-(tert-Butyldimethylsilyloxymethyl)phenyl]-3-mesitylthiourea
To 0.45 g (1.9 mmol) of 3-(tert-butyldimethylsilyloxymethyl)aniline in 3 mL of methanol was added 0.67 g (3.8 mmol) of mesitylisothiocyanate. The mixture was heated at reflux for 18 h. The mixture was concentrated and purified by flash chromatography eluting with a 16% ethyl acetate/hexanes mixture to give 0.56 (71%) of the title compound as a sticky white solid.

reactant | 3-(tert-butyldimethylsilyloxymethyl)aniline | 1.9 mmol, 0.45 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(N)C=CC1 | C13H23NOSi
reactant | mesitylisothiocyanate | 3.8 mmol, 0.67 g | C1(=C(C(=CC(=C1)C)C)N=C=S)C | C10H11NS
solvent | methanol | 3 mL | CO | CH4O
product | 1-[3-(tert-Butyldimethylsilyloxymethyl)phenyl]-3-mesitylthiourea | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)NC(=S)NC1=C(C=C(C=C1C)C)C | C23H34N2OSSi
